US09314464B2
Intermediate. N-(3-bromo-2,4-difluorophenyl)propane-1-sulfonamide
A solution of 3-bromo-2,4-difluoroaniline (4.16 g, 20 mmol, EP184384), n-propanesulfonyl chloride (4.6 ml, 40 mmol), pyridine (8 ml), DMAP (97 mg), and DCM (100 ml) was stirred at rt for 16 h. Aqueous sodium bicarbonate solution was added and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium bicarbonate and brine. The crude product was purified by silica gel chromatography (8:1 to 3:1 hexanes/ethyl acetate eluant) to give the title compound. MS m/z 313.9 (M+1).

reactant | 3-bromo-2,4-difluoroaniline | 20 mmol, 4.16 g | BrC=1C(=C(N)C=CC1F)F | C6H4BrF2N
reactant | n-propanesulfonyl chloride | 40 mmol, 4.6 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | DMAP | 97 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2,4-difluorophenyl)propane-1-sulfonamide | BrC=1C(=C(C=CC1F)NS(=O)(=O)CCC)F | C9H10BrF2NO2S
